US09029409B2
2-(4-(3-(6-(4-Fluoro-3-methoxybenzylcarbamoyl)-2-methylpyrimidin-4-yl)-4,5-dihydroisoxazol-5-yl)piperidin-1-yl)-2-oxoethyl acetate (1.8 g, 3.5 mmol) was dissolved in ACN (20 mL) and 2.5 N sodium hydroxide (20 mL) was added. The mixture was stirred for about 6 h and then ACN was removed under reduced pressure. The aqueous layer was adjusted to pH 6 with 10% aqueous hydrogen chloride and then extracted with EtOAc (2×15 mL). The combined organic layers were dried over sodium sulphate and concentrated under reduced pressure. The crude material was purified by preparative HPLC (Table 2, Method a) to afford N-(4-fluoro-3-methoxybenzyl)-6-(5-(1-(2-hydroxyacetyl)piperidin-4-yl)-4,5-dihydroisoxazol-3-yl)-2-methylpyrimidine-4-carboxamide 0.65 g (39%): 1H NMR (400 MHz, DMSO): δ 9.499-9.467 (t, J=6.4 Hz, 1H), 8.139 (s, 1H), 7.143-7.114 (m, 2H), 6.900-6.884 (m, 1H), 4.684-4.657 (m, 1H), 4.482-4.38 (m, 4H), 4.095-4.049 (m, 3H), 3.815 (s, 3H), 3.495-3.451 (m, 1H), 3.217-3.196 (m, 2H), 2.911-2.800 (m, 1H), 2.752 (s, 3H), 1.855-1.684 (m, 3H), 1.234-1.105 (m, 2H). LC/MS Rt=1.22 (Table 1, method c) min; MS m/z: 486.3 (M+H)+.

reactant | 2-(4-(3-(6-(4-Fluoro-3-methoxybenzylcarbamoyl)-2-methylpyrimidin-4-yl)-4,5-dihydroisoxazol-5-yl)piperidin-1-yl)-2-oxoethyl acetate | 3.5 mmol, 1.8 g | C(C)(=O)OCC(=O)N1CCC(CC1)C1CC(=NO1)C1=NC(=NC(=C1)C(NCC1=CC(=C(C=C1)F)OC)=O)C | C26H30FN5O6
reactant | sodium hydroxide | 2.5 N, 20 mL | [OH-].[Na+]
solvent | ACN | 20 mL | C(C)#N | C2H3N
product | N-(4-fluoro-3-methoxybenzyl)-6-(5-(1-(2-hydroxyacetyl)piperidin-4-yl)-4,5-dihydroisoxazol-3-yl)-2-methylpyrimidine-4-carboxamide | 0.65 g, 39% | FC1=C(C=C(CNC(=O)C2=NC(=NC(=C2)C2=NOC(C2)C2CCN(CC2)C(CO)=O)C)C=C1)OC | C24H28FN5O5
